US04501750
Into 50 ml of acetone, were added 12.5 g of 2-amino-4-phenylthiazole and 7.0 g of triethylamine. The mixture was cooled to -10°--20° C. To the mixture solution, 11.7 g of α-chloropropionylchloride was slowly dropped. After the completion of the dropwise addition, the resultant mixture solution was agitated at room temperature for 3 hours. Then, the reaction mixture was poured into 500 ml of water. Resulting oily substance was extracted with ethyl acetate. The extract was then successively washed with dilute hydrochloric acid and water. After drying the solution, the ethyl acetate was removed under reduced pressure. The residue was recrystallized from an ether/n-hexane mixed solvent to obtain 13.2 g of 2-(α-chloropropionylamino)-4-phenylthiazole.

reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | 2-amino-4-phenylthiazole | 12.5 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | triethylamine | 7.0 g | C(C)N(CC)CC | C6H15N
reactant | α-chloropropionylchloride | 11.7 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | water | 500 ml | O | H2O
product | 2-(α-chloropropionylamino)-4-phenylthiazole | 13.2 g | ClC(C(=O)NC=1SC=C(N1)C1=CC=CC=C1)C | C12H11ClN2OS
